US04348399
A mixture of p-aminobenzoylacetonitrile, 1-bromohexadecane, potassium carbonate and hexamethylphosphoramide is heated to 80° C. for 20 hours and worked up as in Example 1, providing 4-hexadecylaminobenzoylacetonitrile. This material is dissolved in isopropanol and treated with an excess of sodium borohydride. After stirring at room temperature for 3 hours, the solution is concentrated, diluted with water and extracted with chloroform. The chloroform extract yields the crude carbinol which is heated to reflux for 1 hour with ethanol containing an equal volume of 2 N aqueous hydrochloric acid. The solution is then cooled, diluted with water and extracted with chloroform. The organic extract is washed successively with water and aqueous sodium bicarbonate, then dried and evaporated to afford 4-(hexadecylamino)cinnamonitrile.

reactant | p-aminobenzoylacetonitrile | NC1=CC=C(C(=O)CC#N)C=C1 | C9H8N2O
reactant | 1-bromohexadecane | BrCCCCCCCCCCCCCCCC | C16H33Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 4-hexadecylaminobenzoylacetonitrile | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)CC#N)C=C1 | C25H40N2O
